US07960552B2
Palladium(II)acetate (8.2 mg, 36.5 μmol) was added to ethyl 6-bromo-7-fluoro-2-quinolinecarboxylate (217.8 mg, 730.6 μmol), 4-hydroxy-phenyl-boronic acid (246.0 mg, 1.10 mmol), triphenylphosphine (19.2 mg, 73.1 μmol), and potassium phosphate (542.8 mg, 2.56 mmol). Then, dioxane (3.6 mL) was added to the mixture, followed by water (73 μL), and the reaction mixture was heated open to the atmosphere at 60° C. in an oil bath for 14 hours, then allowed to cool to room temperature. Water was added followed by ethyl acetate and the mixture was filtered through Celite®. The filtrate was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 2:3 ethyl acetate:hexanes to give 138.9 mg (61%) of ethyl 7-fluoro-6-(4-hydroxyphenyl)-2-quinolinecarboxylate as a solid. 1H NMR (400 MHz, d6-DMSO): δ 9.82 (s, 1H), 8.61 (d, J=9 Hz, 1H), 8.23 (d, J=9 Hz, 1H), 8.11 (d, J=8 Hz, 1H), 8.01 (d, J=12 Hz, 1H), 7.53 (d, J=8 Hz, 2H), 6.92 (d, J=8 Hz, 2H), 4.42 (q, J=7 Hz, 2H), 1.38 (t, J=7 Hz, 3H). ESI-LCMS m/z 312 (M+H)+.

reactant | ethyl 6-bromo-7-fluoro-2-quinolinecarboxylate | 730.6 μmol, 217.8 mg | BrC=1C=C2C=CC(=NC2=CC1F)C(=O)OCC | C12H9BrFNO2
reactant | 4-hydroxy-phenyl-boronic acid | 1.10 mmol, 246.0 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | triphenylphosphine | 73.1 μmol, 19.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium phosphate | 2.56 mmol, 542.8 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Palladium(II)acetate | 36.5 μmol, 8.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | water | 73 μL | O | H2O
solvent | dioxane | 3.6 mL | O1CCOCC1 | C4H8O2
product | ethyl 7-fluoro-6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 138.9 mg, 61% | FC1=C(C=C2C=CC(=NC2=C1)C(=O)OCC)C1=CC=C(C=C1)O | C18H14FNO3
